US06667335B2
[1-(5-Chloro-pyridin-2-yl)-1H-imidazol-4-yl]-methanol
Following the general method described in example 388, 1-(5-chloro-pyridin-2-yl)-1H-imidazole-4-carboxylic acid ethyl ester was reacted with diisobutylaluminum hydride. After hydrolytic workup and chromatography the title compound was obtained as a light brown crystalline solid. Mp. 82-87° C. (AcOEt/Et2O), MS: m/e=210 (M+H+).

reactant | 1-(5-chloro-pyridin-2-yl)-1H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CN(C1)C1=NC=C(C=C1)Cl | C11H10ClN3O2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
product | [1-(5-Chloro-pyridin-2-yl)-1H-imidazol-4-yl]-methanol | ClC=1C=CC(=NC1)N1C=NC(=C1)CO | C9H8ClN3O
